US05447657
A solution of 0.44 g of 3-[trans-4-[(4'-fluoro-4-biphenylyl)ethynyl]cyclohexyl]propanal in 20 ml of methanol/water (vol. 4:1) and 15 ml of dioxan is treated portionwise with 0.10 g of sodium borohydride. The reaction mixture is stirred at room temperature for 0.75 hour and concentrated. The residue is treated with water and extracted with diethyl ether. The ether phase is washed with water, dried over sodium sulphate, filtered and evaporated. 0.36 g of 3-[trans-4-[(4'-fluoro-4-biphenylyl)ethynyl]cyclohexyl]propanol is obtained.

reactant | 3-[trans-4-[(4'-fluoro-4-biphenylyl)ethynyl]cyclohexyl]propanal | 0.44 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C#C[C@@H]1CC[C@H](CC1)CCC=O | C23H23FO
reactant | sodium borohydride | 0.10 g | [BH4-].[Na+]
solvent | methanol water | 20 ml | CO.O
solvent | dioxan | 15 ml | O1CCOCC1 | C4H8O2
product | 3-[trans-4-[(4'-fluoro-4-biphenylyl)ethynyl]cyclohexyl]propanol | 0.36 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C#C[C@@H]1CC[C@H](CC1)CCCO | C23H25FO
